US05393875
832 mg (6.16mmol) of 4-methylmorpholine 4-oxide monohydrate and 10 ml of an osmium tetroxide solution [1.0 g of osmium tetroxide and 1 ml of tert-butyl hydroperoxide (70% in water) in 199 ml of tert-butanol]were added at room temperature to a solution of 935 mg (2.05 mmol) of benzyl rac-α-[[[1-methyl-1-(3-pyrrolin-1-ylcarbonyl)ethyl]sulfonyl]methyl]hydrocinnamate in 30 ml of acetone and 10 ml of water. The reaction mixture was stirred at room temperature for three days. Subsequently, the solvent was evaporated under reduced pressure, the residue was poured into 80 ml of ice-cold 10% citric acid solution and extracted with 240 ml of ethyl acetate. The organic extracts were washed twice with 80 ml of water each time and the combined aqueous phases were back-extracted twice with 80 ml of ethyl acetate each time. The combined ethyl acetate extracts were dried over magnesium sulphate and evaporated under reduced pressure. For purification, the crude product (1.1 g) was chromatographed on 80 g of silica gel with a 1:4 mixture of toluene and ethyl acetate as the eluent. There were obtained 750 mg of benzyl (RS)-α-[[[1-[[(3RS,4RS)-3,4-dihydroxy-1-pyrrolidinyl]carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate as a colourless oil, MS: 490 (M+H)+.

reactant | 4-methylmorpholine 4-oxide monohydrate | 6.16mmol, 832 mg | O.C[N+]1(CCOCC1)[O-]
reactant | benzyl rac-α-[[[1-methyl-1-(3-pyrrolin-1-ylcarbonyl)ethyl]sulfonyl]methyl]hydrocinnamate | 2.05 mmol, 935 mg | CC(C)(C(=O)N1CC=CC1)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H29NO5S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
catalyst | osmium tetroxide | 10 ml, 1.0 g | [Os](=O)(=O)(=O)=O
product | benzyl (RS)-α-[[[1-[[(3RS,4RS)-3,4-dihydroxy-1-pyrrolidinyl]carbonyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamate | 750 mg | OC1CN(CC1O)C(=O)C(C)(C)S(=O)(=O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C25H31NO7S
